US08138189B2
Step 5: 3-(2-Chloro-4-methoxy-phenyl)-1,1,1-trifluoro-2-(2-methyl-pyridin-4-yl)-butan-2-ol
Trifluoromethyltrimethylsilane (2M in THF, 25.80 mL) was added at 0° C. to a solution of 2-(2-chloro-4-methoxy-phenyl)-1-(2-methyl-pyridin-4-yl)-propan-1-one (5.98 g) in THF (100 mL) followed by the addition of tetrabutylammonium fluoride trihydrate (1.32 g). Stirring was continued for 2 hours at r.t. The reaction mixture was cooled, poured into ice and basified with sat. Na2CO3. The aqueous phase was then extracted with ethyl acetate and the organic layer was washed with brine, dried over Na2SO4 and evaporated. The residue was purified by flash chromatography (silica gel, gradient of heptane in ethyl acetate) to give the title compound as a light yellow foam (5.96 g, 80%). MS (m/e)=360.1 [MH+].

reactant | Trifluoromethyltrimethylsilane | 2M, 25.80 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | 2-(2-chloro-4-methoxy-phenyl)-1-(2-methyl-pyridin-4-yl)-propan-1-one | 5.98 g | ClC1=C(C=CC(=C1)OC)C(C(=O)C1=CC(=NC=C1)C)C | C16H16ClNO2
reactant | tetrabutylammonium fluoride trihydrate | 1.32 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-(2-Chloro-4-methoxy-phenyl)-1,1,1-trifluoro-2-(2-methyl-pyridin-4-yl)-butan-2-ol | 5.96 g, 80% | ClC1=C(C=CC(=C1)OC)C(C(C(F)(F)F)(O)C1=CC(=NC=C1)C)C | C17H17ClF3NO2
